Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:6],5.141722844419999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][H:10],1.81837735996
[H:11].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[H:7])[O:8][C:9][H:10]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],-4.05809652134
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])=[C:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.83834660681
[C:1]#[C:2][C:6]([H:7])([H:8])[O:9][H:10].[C:3](=[O:4])[H:5]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.4010702084400006
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-4.17896815916
[C:9][O:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-4.02787850937
[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],1.38168342454
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-2.074927577
[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.3845192365900005
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.80223228532
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],4.3857512443
[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.55578877778
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4],5.42274811979
[H:9].[O:1]=[C:2][O:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.60480095331
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1].[O:2]=[C:3]=[C:4][O:5][C:6]([H:7])[H:8],2.37613146273
[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]=[O:3],1.12970175369
[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-6.12499584454
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:7]([H:8])[H:9],4.39628892365
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],1.61230045509
[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.2998871
[C:1]#[C:2][C:5]([H:6])([H:7])[O:8][H:9].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-4.88620689953
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.8345005148
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],2.19058433
[H:1][C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]=[C:4]([H:5])[H:6])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],2.28982110776
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11],-1.03293172439
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16],-4.69901284811
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[C:9](=[O:10])([H:11])[H:12],-0.35362841262100003
[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],1.89363964497
